US08106070B2
KHMDS (0.5 M in toluene) (84.4 mL, 42.2 mmol) was added to a solution of methyl 2-oxocyclopentanecarboxylate (5 g, 35.2 mmol) and N-phenylbis(trifluoromethanesulfonimide) (15.1 g, 42.2 mmol) in THF (200 mL) at −78° C. After stirring at −78° C. for 2 hr, the reaction mixture was allowed to warm to rt over 1 hr, quenched with brine and diluted with ethyl acetate. The organic phase was dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 20% EtOAc/hexane afforded methyl 2-{[(trifluoromethyl)sulfonyl]oxy}cyclopent-1-ene-1-carboxylate as a solid.

reactant | KHMDS | 42.2 mmol, 0.5 M, 84.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl 2-oxocyclopentanecarboxylate | 35.2 mmol, 5 g | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | N-phenylbis(trifluoromethanesulfonimide) | 42.2 mmol, 15.1 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | methyl 2-{[(trifluoromethyl)sulfonyl]oxy}cyclopent-1-ene-1-carboxylate | FC(S(=O)(=O)OC1=C(CCC1)C(=O)OC)(F)F | C8H9F3O5S
